US04697033
To 4-(1-methylpropoxy)phenol (44.3 mmol) in 25 ml of DMF is added, under N2, potassium carbonate (51.0 mmol) followed by dropwise addition of N-(bromoethyl)phthalimide (51.0 mmol) in 30 ml of DMF. The mixture is stirred at RT overnight. Water is then added and the aqueous phase is extracted with ether. The combined organic layers are washed with 5% sodium hydroxide, with water and with brine, dried and the solent removed to give N-{2-[4-(1-methylpropoxy)phenoxy]ethyl}phthalimide. Following the procedures of Example 7, the above phthalimide (5.7 mmol) is reacted with hydrazine hydrate (5.7 mmol) to give 2-[4-(1-methylpropoxy)phenoxy]ethylamine.

reactant | 4-(1-methylpropoxy)phenol | 44.3 mmol | CC(CC)OC1=CC=C(C=C1)O | C10H14O2
reactant | potassium carbonate | 51.0 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | N-(bromoethyl)phthalimide | 51.0 mmol | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | Water | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N-{2-[4-(1-methylpropoxy)phenoxy]ethyl}phthalimide | CC(CC)OC1=CC=C(OCCN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C20H21NO4
